US06573274B1
To a suspension of 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (278 mg) in dichloromethane (3 ml) were added pyridine (148 mg) and ethyl chlorocarbonate (129 mg) under ice-cooling, and the mixture was stirred for 24 hr. The solvent was evaporated and the residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from ethyl acetate-hexane to give 3-(4-(N-(ethoxycarbonyl)-N-methylamino)-2-chlorobenzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (126 mg) as a white powder.

reactant | 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 278 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=CC(=C1)NC | C21H26ClN5O3S
reactant | pyridine | 148 mg | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorocarbonate | 129 mg | C(OCC)(=O)Cl | C3H5ClO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-(4-(N-(ethoxycarbonyl)-N-methylamino)-2-chlorobenzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 126 mg | C(C)OC(=O)N(C)C1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=C1)Cl | C24H30ClN5O5S
